US04952573
A solution of 4-quinoline carboxylic acid (1.5 g., 8.6 mmoles) in acetic acid (30 ml) containing 5% Rh/Al2O3 (400 mg) was reduced (4.2 kg, 85° C.) in a steel bomb for 15 hours. After cooling, the catalyst was filtered and the solvent was evaporated to dryness. The residue was triturated with EtOH/Et2O (50/50), filtered and washed with a minimum of Et2O to give pure 4-decahydroquinoline carboxylic acid (1.4 g, 90%) as white crystals, mp >300° C., see Burckhardt, Helferick, L. Wissel, J. Prak. Chim. 39 (1966). An analytical sample of its hydrochloride salt was recrystalized in acetonitrile/water. (Found: C 54.19; H 8.62; N 6.33. Calc. for C10H18ClNO2 : C 54.66 H 8.26; N 6.38). 1H NMR 400 MHz (H2O) δ=1.3-1.5 (4H, m) 1.67-1.76 (1H,m) 1.82-2.04 (5H, m) 2.29-2.4 (1H, m) 2.62-2.7 (1H, d t) 3.01-3.17 (1H, m) 3.46-3.57 (2H,m) 7.89 (1H, broad s, exchangeable D2O) 8.29 (1H broad s, exchangeable D2O).

reactant | 4-quinoline carboxylic acid | 8.6 mmoles, 1.5 g | N1=CC=C(C2=CC=CC=C12)C(=O)O | C10H7NO2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | Rh/Al2O3 | 400 mg | [Rh] | Rh
product | 4-decahydroquinoline carboxylic acid | 1.4 g, 90% | N1CCC(C2CCCCC12)C(=O)O | C10H17NO2
